US04857527
To a mixture of 2-methyl-4-(3-nitrophenyl)-6-phenyl-3-pyridinecarboxylic acid (1.98 g), methylene chloride (20 ml) and N,N-dimethylformamide (4 ml) was added a solution of thionyl chloride (0.47 ml) in methylene chloride (2 ml) at 7° C. under ice cooling. After stirring for 2.5 hours at the same condition, a solution of 2-dimethylaminoethylamine (1.3 g), in methylene chloride (20 ml) was added thereto and stirred for 2 hours at the same temperature. After adding water (150 ml) and methylene chloride (150 ml) thereto, the mixture was adjusted to pH 9.0 with 10% aqueous sodium hydroxide. The organic layer was separated, washed successively with water and saturated brine, dried over magnesium sulfate and evaporated in vacuo. The residue was subjected to a column chromatography on alumina (70 g) and eluted with chloroform. The fractions containing the object compound were combined and concentrated under reduced pressure. The residue was recrystallized from diethyl ether to give 3-(2-dimethylaminoethylcarbamoyl)-2-methyl-4-(3-nitrophenyl)-6-phenylpyridine (0.88 g).

reactant | 2-methyl-4-(3-nitrophenyl)-6-phenyl-3-pyridinecarboxylic acid | 1.98 g | CC1=NC(=CC(=C1C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | C19H14N2O4
reactant | thionyl chloride | 0.47 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-dimethylaminoethylamine | 1.3 g | CN(CCN)C | C4H12N2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | 150 ml | O | H2O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 3-(2-dimethylaminoethylcarbamoyl)-2-methyl-4-(3-nitrophenyl)-6-phenylpyridine | 0.88 g | CN(CCNC(=O)C=1C(=NC(=CC1C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=CC=C1)C)C | C23H24N4O3
